delta_loaded_network - fault test
Vin A 0 DC 12
Ra A B 3.216177
Rb B C 29.772427
Rc C A 1293.892912
Rload B 0 29.845749
.op
.control
run
print v(A) v(B) v(C)
print @ra[i] @rb[i] @rc[i] @rload[i]
.endc
.end
